US07977358B2
N-{3-[3,5-Dimethyl-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-pyrazol-1-yl]-phenyl}-2,2,2-trifluoro-acetamide
In analogy to the procedure described in Example 38E], [1-(3-amino-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone hydrochloride (Example 38D]) and trifluoroacetic acid anhydride gave the title compound in quant yield as light yellow solid. MS: 464.3 (MH+).

reactant | [1-(3-amino-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone hydrochloride | Cl.NC=1C=C(C=CC1)N1N=C(C(=C1C)C(=O)N1CCC(CC1)N1CCCC1)C
reactant | trifluoroacetic acid anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-{3-[3,5-Dimethyl-4-(4-pyrrolidin-1-yl-piperidine-1-carbonyl)-pyrazol-1-yl]-phenyl}-2,2,2-trifluoro-acetamide | quant yield | CC1=NN(C(=C1C(=O)N1CCC(CC1)N1CCCC1)C)C=1C=C(C=CC1)NC(C(F)(F)F)=O | C23H28F3N5O2
